US07005440B1
1-Methyl-4-oxo-1,4-dihydroquinolin-2-ylmethyl bromide
A solution of 1-methyl-4-oxo-1,4-dihydroquinolin-2-ylmethanol (112 mg, 0.592 mmoles, Coppola, G. M. J. Heterocyclic Chem., 1986, 23, 1717) and phosphorous tribromide (56.2 uL, 0.592 mmoles) in 3:1 CH2Cl2: DMF (20 mL) is stirred 18 hours and another portion (20 mL) of phosphorous tribromide is added. After 24 hours distilled water (10 mL) is added and extracted with EtOAc. The organic layer is concentrated and the resulting residue purified by column chromatography (silica, 20:1 CH2Cl2:MeOH) to yield the title compound as a white solid. MS (ESI) 252, 254 (M+H)+, Br pattern.

reactant | 1-methyl-4-oxo-1,4-dihydroquinolin-2-ylmethanol | 0.592 mmoles, 112 mg | CN1C(=CC(C2=CC=CC=C12)=O)CO | C11H11NO2
reactant | phosphorous tribromide | 0.592 mmoles, 56.2 uL | P(Br)(Br)Br | Br3P
reactant | CH2Cl2 | C(Cl)Cl | CH2Cl2
reactant | phosphorous tribromide | 20 mL | P(Br)(Br)Br | Br3P
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 1-Methyl-4-oxo-1,4-dihydroquinolin-2-ylmethyl bromide | CN1C(=CC(C2=CC=CC=C12)=O)CBr | C11H10BrNO
